US07968577B2
2,2-Dimethyl-3-(4′-(methyloxy)-4-biphenylyl)-3-phenyl-N-1,3-thiazol-2-ylpropanamide
An Emry™ process vial was charged with 3-(4-bromo-phenyl)-2,2-dimethyl-3-phenyl-N-thiazol-2-yl-propionamide (70 mg, 0.168 mmol) and 4-methoxy-phenylboronic acid (77 mg, 0.50 mmol), tetrakis(triphenylphosphine)palladium(0) (20 mg, 0.017 mmol), 2.0 mL of 2M K2CO3, and 1.5 mL of DMF. The reaction mixture was degassed by bubbling nitrogen through for 15 min, then sealed and exposed to microwave irradiation for 30 min at 150° C. The reaction mixture was cooled, filtered, and diluted with ethyl acetate. The organic solution was washed, dried and concentrated. The crude product was purified by preparative HPLC to give the title compound of Example 374 as a white solid (30 mg, 40%). LC/MS (m/z) 444.37 [(M+H)+]; HPLC Rt: 3.770 min. 1H NMR (400 MHz, MeOD) δ ppm 7.34-7.54 (9H, m) 7.23 (2H, t, J=7.38 Hz) 7.16 (1H, t, J=7.12 Hz) 7.02 (1H, d, J=3.56 Hz) 6.93 (2H, d, J=8.65 Hz) 4.63 (1H, s) 3.78 (3H, s) 1.40 (6H, s).

reactant | 3-(4-bromo-phenyl)-2,2-dimethyl-3-phenyl-N-thiazol-2-yl-propionamide | 0.168 mmol, 70 mg | BrC1=CC=C(C=C1)C(C(C(=O)NC=1SC=CN1)(C)C)C1=CC=CC=C1 | C20H19BrN2OS
reactant | 4-methoxy-phenylboronic acid | 0.50 mmol, 77 mg | COC1=CC=C(C=C1)B(O)O | C7H9BO3
reactant | K2CO3 | 2M, 2.0 mL | C(=O)([O-])[O-].[K+].[K+]
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.017 mmol, 20 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
product | 2,2-Dimethyl-3-(4′-(methyloxy)-4-biphenylyl)-3-phenyl-N-1,3-thiazol-2-ylpropanamide | 30 mg, 40% | CC(C(=O)NC=1SC=CN1)(C(C1=CC=CC=C1)C1=CC=C(C=C1)C1=CC=C(C=C1)OC)C | C27H26N2O2S
